2174-10-25 07:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2174-10-24**] 10:30 AM
 INVASIVE VENTILATION - START [**2174-10-24**] 11:00 AM
 MULTI LUMEN - START [**2174-10-24**] 11:26 AM
 BLOOD CULTURED - At [**2174-10-24**] 01:00 PM
 ENDOSCOPY - At [**2174-10-24**] 01:22 PM
   - Showed variceal bleed
 ARTERIAL LINE - START [**2174-10-24**] 01:34 PM
 DIALYSIS CATHETER - START [**2174-10-24**] 05:38 PM
   - Received CVVHD with aggressive regimen to decrease K+
   - Dopa changed to Vasopressin, then off. Now only on Levophed.
   HD line placed by renal.
   - Received CVVHD with aggressive regimen to decrease K+
   - Following DIC labs, CBC, lytes
   - Dopa changed to Vasopressin, then off. Now only on Levophed.
   - Serial hcts, FFP and INR check
   - On Vanc/Zosyn
   - Improving lactate
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2174-10-24**] 10:51 AM
   Piperacillin/Tazobactam (Zosyn) - [**2174-10-25**] 05:49 AM
   Infusions:
   Fentanyl - 45 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Octreotide - 50 mcg/hour
   Norepinephrine - 0.24 mcg/Kg/min
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2174-10-24**] 02:15 PM
   Insulin - Regular - [**2174-10-24**] 04:11 PM
   Dextrose 50% - [**2174-10-24**] 04:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-10-25**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 35.3
C (95.5
   HR: 74 (67 - 105) bpm
   BP: 115/57(79) {74/38(52) - 131/75(94)} mmHg
   RR: 22 (20 - 47) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    Mixed Venous O2% Sat: 97 - 97
   Total In:
                                                                  6,725 mL
                                                                  3,343 mL
   PO:
   TF:
   IVF:
                                                                  2,594 mL
                                                                  1,800 mL
   Blood products:
                                                                  3,780 mL
                                                                  1,543 mL
   Total out:
                                                                    905 mL
                                                                  2,580 mL
   Urine:
                                                                    205 mL
                                                                    150 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  5,820 mL
                                                                    763 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 346 (311 - 346) mL
   RR (Set): 20
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability, No Spon Resp
   PIP: 28 cmH2O
   Plateau: 25 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/39/117/22/0
   Ve: 13 L/min
   PaO2 / FiO2: 293
   Physical Examination
   General:  Intubated, NAD
   Cardiovascular: (Murmur: Systolic)
   Pulmonary: (Expansion: Symmetric), (Breath Sounds: Bronchial: )
   Abdominal: Bowel sounds present, Distended, Tender:
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Labs / Radiology
   66 K/uL
   9.2 g/dL
   185 mg/dL
   1.6 mg/dL
   22 mEq/L
   3.4 mEq/L
   56 mg/dL
   97 mEq/L
   140 mEq/L
   27.3 %
   17.6 K/uL
        [image002.jpg]
                             [**2174-10-24**]  11:43 AM
                             [**2174-10-24**]  12:42 PM
                             [**2174-10-24**]  02:06 PM
                             [**2174-10-24**]  02:12 PM
                             [**2174-10-24**]  08:13 PM
                             [**2174-10-24**]  08:40 PM
                             [**2174-10-25**]  02:10 AM
                             [**2174-10-25**]  02:22 AM
                             [**2174-10-25**]  06:14 AM
   WBC
   18.5
   29.1
   25.0
   17.6
   Hct
   17.2
   32.2
   22.8
   27.3
   Plt
   76
   70
   65
   66
   Cr
   1.7
   2.0
   2.2
   1.6
   TCO2
   13
   11
   19
   24
   26
   Glucose
   170
   92
   143
   185
   Other labs: PT / PTT / INR:24.2/45.0/2.3, ALT / AST:1663/9939, Alk Phos
   / T Bili:230/6.1, Differential-Neuts:64.0 %, Band:8.0 %, Lymph:16.0 %,
   Mono:10.0 %, Eos:0.0 %, Fibrinogen:89 mg/dL, Lactic Acid:10.1 mmol/L,
   Albumin:2.8 g/dL, LDH:[**Numeric Identifier 12008**] IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.6 mg/dL
   Microbiology: [**10-19**], [**10-20**], [**10-24**] bcx ucx all ntd
   peritoneal fluid ntd, just PMNs
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ACIDOSIS, METABOLIC
   79 y/o male with hepatitis c cirrhosis, elevated lactate, BRB per NG
   tube.
   # Hypotension/Bleed: Clearly there is a component of volume loss given
   his blood loss, unclear if there is sepsis.
   - Cultures obtained
   - Vanc/Zosyn empirically
   - Crossmatch 8 units, transfuse 4 units at this time, 4 more on the
   way, FFPs as well.
   - Liver at bedside performing endoscopy now.
   - Tap ascites when stable, ? SBP
   - PPI drip
   - Octreotide
   - [**Doctor Last Name **]-[**Doctor Last Name 4398**] next step if needed.
   - Follow ionized calcium
   - Serial hcts, FFP and INR check
   # Elevated Lactate: Likely secondary to necrosis in the context of
   hypotension.  ? Mesenteric ischemia versus global hyperperfusion at
   this time.
   - Surgery consulted
   - Volume resuscitation with fluids, blood
   - No free air on CXR although not ideal.
   - Patient unstable for further evaluation of bowel at this time.
   # Anuria: Likely secondary to hypotension.  Renal consult obtained if
   patient needs urgent dialysis given hyperkalemia.  At this point given
   bleeding I am not sure if he would be stable for any CRRT.
   - Follow volume status
   - Follow potassium
   # Hyperkalemia: Resuscitation with temporizing measures as in HPI.
   Repeat K is elevated.  Renal aware.  Repeat:
   - Calcium gluconate
   - Sodium bicarbonate
   - Glucose/Insulin
   - follow serial K
   .
   FEN: No IVF, replete electrolytes, regular diet
   .
   Prophylaxis: Subcutaneous heparin
   .
   Access: 2 peripherals, left subclavian
   .
   Code:  DNR (CPR not medically indicated, for discussion see POE and Dr.
  [**Name (NI) 11964**] note [**10-24**]).
   .
   Communication: Friend [**Name (NI) 4396**]
   .
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2174-10-24**] 11:26 AM
   Arterial Line - [**2174-10-24**] 01:34 PM
   22 Gauge - [**2174-10-24**] 04:33 PM
   20 Gauge - [**2174-10-24**] 04:33 PM
   Dialysis Catheter - [**2174-10-24**] 05:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2174-10-25 11:07:00 Physician Attending Progress Note
Chief Complaint: Hypovolemic shock, respiratory failure, acute renal
   failure, GI Bleed, Blood Loss Anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   CRRT instituted last PM.  Did have positional a-line that had to have
   another suture to maintain position/functionality
   24 Hour Events:
 BLOOD CULTURED - At [**2174-10-24**] 10:30 AM
 INVASIVE VENTILATION - START [**2174-10-24**] 11:00 AM
 MULTI LUMEN - START [**2174-10-24**] 11:26 AM
 BLOOD CULTURED - At [**2174-10-24**] 01:00 PM
 ENDOSCOPY - At [**2174-10-24**] 01:22 PM
 ARTERIAL LINE - START [**2174-10-24**] 01:34 PM
 DIALYSIS CATHETER - START [**2174-10-24**] 05:38 PM
   History obtained from [**Hospital 15**] Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2174-10-24**] 10:51 AM
   Piperacillin/Tazobactam (Zosyn) - [**2174-10-25**] 05:49 AM
   Infusions:
   Fentanyl - 45 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2174-10-24**] 02:15 PM
   Insulin - Regular - [**2174-10-24**] 04:11 PM
   Dextrose 50% - [**2174-10-24**] 04:12 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: mechanical ventilation
   Genitourinary: Foley, Dialysis
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2174-10-25**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.1
C (97
   HR: 80 (67 - 105) bpm
   BP: 110/50(71) {74/38(52) - 131/75(94)} mmHg
   RR: 23 (19 - 39) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Mixed Venous O2% Sat: 97 - 97
   Total In:
                                                                  6,725 mL
                                                                  4,659 mL
   PO:
   TF:
   IVF:
                                                                  2,594 mL
                                                                  2,808 mL
   Blood products:
                                                                  3,780 mL
                                                                  1,851 mL
   Total out:
                                                                    905 mL
                                                                  4,246 mL
   Urine:
                                                                    205 mL
                                                                    160 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  5,820 mL
                                                                    417 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 346 (311 - 346) mL
   RR (Set): 20
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability, No Spon Resp
   PIP: 28 cmH2O
   Plateau: 25 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/45/134/26/2
   Ve: 13 L/min
   PaO2 / FiO2: 335
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   59 K/uL
   200 mg/dL
   1.4 mg/dL
   26 mEq/L
   3.6 mEq/L
   44 mg/dL
   94 mEq/L
   139 mEq/L
   23.4 %
   13.0 K/uL
        [image002.jpg]
                             [**2174-10-24**]  12:42 PM
                             [**2174-10-24**]  02:06 PM
                             [**2174-10-24**]  02:12 PM
                             [**2174-10-24**]  08:13 PM
                             [**2174-10-24**]  08:40 PM
                             [**2174-10-25**]  02:10 AM
                             [**2174-10-25**]  02:22 AM
                             [**2174-10-25**]  06:14 AM
                             [**2174-10-25**]  07:51 AM
                             [**2174-10-25**]  08:15 AM
   WBC
   29.1
   25.0
   17.6
   13.0
   Hct
   32.2
   22.8
   27.3
   23.4
   Plt
   70
   65
   66
   59
   Cr
   2.0
   2.2
   1.6
   1.4
   TCO2
   13
   11
   19
   24
   26
   29
   Glucose
   92
   143
   185
   200
   Other labs: PT / PTT / INR:21.5/39.1/2.0, ALT / AST:1663/9939, Alk Phos
   / T Bili:230/6.1, Differential-Neuts:64.0 %, Band:8.0 %, Lymph:16.0 %,
   Mono:10.0 %, Eos:0.0 %, Fibrinogen:152 mg/dL, Lactic Acid:7.9 mmol/L,
   Albumin:2.8 g/dL, LDH:[**Numeric Identifier 12008**] IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.2 mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ACIDOSIS, METABOLIC
   69 yo man with cirrhosis in MICU with hypovolemic shock in setting of
   sudden variceal bleed, leading to respiratory failure and acute renal
   failure.  Hemodynamics stable overnight, albeit on 2 pressors.  Lactate
   improving though still 7.9.  Now on CVVH with improved maagement to
   acidosis and hyperkalemia.
   1. Hypovolemic shock/GI Bleed/Blood Loss Anemia: Hct drifting down
   again but now only on 1 pressor (levophed).  Cont to transfuse with Hct
   goal of 28 for now.  s/p banding of varices.  FFP for INR<2.  Very high
   LFT elevation likely [**12-20**] to shock liver.  Ca repletion
   2. Acute renal failure: On CRRT with adequate managment of acidosis ond
   hyperkalemia
   3. Respiratory Failure: Cont current vent settings.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2174-10-24**] 11:26 AM
   Arterial Line - [**2174-10-24**] 01:34 PM
   22 Gauge - [**2174-10-24**] 04:33 PM
   20 Gauge - [**2174-10-24**] 04:33 PM
   Dialysis Catheter - [**2174-10-24**] 05:38 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2174-10-26 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - given 2 units platelets, 2 units FFP over the day
   - renal, cont CVVHD
   - renal aware of floppy IJ, but comfortably in place per nursing, thus
   far
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2174-10-24**] 10:51 AM
   Piperacillin/Tazobactam (Zosyn) - [**2174-10-26**] 04:45 AM
   Infusions:
   Fentanyl - 45 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Octreotide - 50 mcg/hour
   Norepinephrine - 0.14 mcg/Kg/min
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-10-26**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.9
C (96.6
   HR: 82 (63 - 83) bpm
   BP: 95/49(65) {75/37(48) - 133/65(87)} mmHg
   RR: 20 (18 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  8,581 mL
                                                                  1,675 mL
   PO:
           TF:
   IVF:
                                                                  4,904 mL
                                                                  1,355 mL
   Blood products:
                                                                  3,677 mL
                                                                    319 mL
   Total out:
                                                                  8,695 mL
                                                                  1,121 mL
   Urine:
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -114 mL
                                                                    554 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability, No Spon Resp
   PIP: 29 cmH2O
   Plateau: 24 cmH2O
   Compliance: 26.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.32/40/138/20/-5
   Ve: 10.5 L/min
   PaO2 / FiO2: 345
   Physical Examination
   General Appearance: General:  Intubated, unresponsive to verbal
   stimuli, NAD
   Cardiovascular: RRR, no m/g/r
   Pulmonary: Equal coarse BS bilaterally
   Abdominal: Distended, bowel sounds present
   Extremities: 1+ pitting edema b/l
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   49 K/uL
   11.5 g/dL
   111 mg/dL
   1.3 mg/dL
   20 mEq/L
   4.3 mEq/L
   27 mg/dL
   104 mEq/L
   137 mEq/L
   30.3 %
   13.0 K/uL
        [image002.jpg]
                             [**2174-10-25**]  06:14 AM
                             [**2174-10-25**]  07:51 AM
                             [**2174-10-25**]  08:15 AM
                             [**2174-10-25**]  02:26 PM
                             [**2174-10-25**]  02:40 PM
                             [**2174-10-25**]  06:17 PM
                             [**2174-10-25**]  07:46 PM
                             [**2174-10-25**]  08:06 PM
                             [**2174-10-26**]  02:05 AM
                             [**2174-10-26**]  02:19 AM
   WBC
   13.0
   12.8
   11.1
   13.0
   Hct
   23.4
   27.7
   30.3
   30.3
   Plt
   59
   49
   60
   60
   49
   Cr
   1.4
   1.3
   1.3
   TCO2
   26
   29
   24
   22
   22
   Glucose
   200
   152
   113
   111
   Other labs: PT / PTT / INR:20.9/37.1/1.9, ALT / AST:1317/5781, Alk Phos
   / T Bili:356/11.0, Amylase / Lipase:/52, Differential-Neuts:64.0 %,
   Band:8.0 %, Lymph:16.0 %, Mono:10.0 %, Eos:0.0 %, Fibrinogen:154 mg/dL,
   Lactic Acid:5.2 mmol/L, Albumin:2.9 g/dL, LDH:3660 IU/L, Ca++:8.6
   mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Imaging: [**10-26**] cxr (my read) - mildly worse bilateral infiltrates
   Microbiology: [**10-24**] bcx pending
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HEPATITIS, ISCHEMIC (SHOCK LIVER)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ACIDOSIS, METABOLIC
   79 y/o male with hepatitis c cirrhosis, elevated lactate, BRB per NG
   tube, s/p EGD with banding of active variceal bleeding.
   # Hypotension/Bleed: Clearly there is a component of volume loss given
   his blood loss, unclear if there is sepsis.  EGD showed variceal bleed
   requiring multiple transfusions of PRBC for falling Hct.  Hct currently
   stable at 30.
   - Goal INR <2; goal plt >50; goal finbrinogen >100
   - q6h coags, calcium, cbc, electrolytes
   - Continue Levophed; Vasopressin weaned off
   - Maintain active type and cross x8 units
   - PPI drip
   - Continue Octreotide
   - f/u cultures obtained
   - Tap ascites when stable, ?SBP
   - Vanc/Zosyn empirically
   # Elevated LFTs/Lactate: Likely secondary to necrosis in the context of
   hypotension.  ? Mesenteric ischemia versus global hypoperfusion at this
   time.  No free air on CXR although not ideal.
   - Improved lactate and LFTs
   - Trend LFTs and lactate daily
   - Volume resuscitation with fluids, blood
   - Patient unstable for further evaluation of bowel at this time.
   # Anuria: Likely secondary to hypotension.  Renal consult obtained if
   patient needs urgent dialysis given hyperkalemia.  At this point given
   bleeding I am not sure if he would be stable for any CRRT.
   - Follow volume status
   - Follow potassium
   - Receiving CVVHD; monitor lytes q6h and replete prn
   # Hyperkalemia: Resuscitation with temporizing measures as in HPI.
   Repeat K is elevated.  Renal aware.  Repeat:
   - Calcium gluconate
   - Sodium bicarbonate
   - Glucose/Insulin
   - follow serial K
   .
   FEN: No IVF, replete electrolytes, NPO
   .
   Prophylaxis: IV PPI
   .
   Access: 2 peripherals, left subclavian, R temporary HD line
   .
   Code:  DNR (CPR not medically indicated, for discussion see POE and Dr.
  [**Name (NI) 11964**] note [**10-24**]).
   .
   Communication: Friend [**Name (NI) 4396**]
   .
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2174-10-24**] 11:26 AM
   Arterial Line - [**2174-10-24**] 01:34 PM
   22 Gauge - [**2174-10-24**] 04:33 PM
   20 Gauge - [**2174-10-24**] 04:33 PM
   Dialysis Catheter - [**2174-10-24**] 05:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2174-10-26 12:20:00 Physician Attending Progress Note
Chief Complaint: Hypovolemic Shock, GI Bleed, Blood Loss Anemia,
   Respiratory Failure, Acute renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Remains on CVVH
   24 Hour Events:
   Lactate down to 5.2
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2174-10-26**] 04:45 AM
   Vancomycin - [**2174-10-26**] 09:00 AM
   Infusions:
   Fentanyl - 45 mcg/hour
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2174-10-26**] 12:20 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 81 (63 - 83) bpm
   BP: 95/54(67) {75/37(48) - 119/56(75)} mmHg
   RR: 20 (18 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  8,581 mL
                                                                  2,924 mL
   PO:
           TF:
   IVF:
                                                                  4,904 mL
                                                                  2,360 mL
   Blood products:
                                                                  3,677 mL
                                                                    564 mL
   Total out:
                                                                  8,695 mL
                                                                  2,545 mL
   Urine:
                                                                    185 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -114 mL
                                                                    379 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability, No Spon Resp
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.30/39/101/19/-6
   Ve: 10.9 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   scattered)
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   82 K/uL
   108 mg/dL
   1.3 mg/dL
   19 mEq/L
   4.4 mEq/L
   27 mg/dL
   106 mEq/L
   137 mEq/L
   31.9 %
   13.3 K/uL
        [image002.jpg]
                             [**2174-10-25**]  08:15 AM
                             [**2174-10-25**]  02:26 PM
                             [**2174-10-25**]  02:40 PM
                             [**2174-10-25**]  06:17 PM
                             [**2174-10-25**]  07:46 PM
                             [**2174-10-25**]  08:06 PM
                             [**2174-10-26**]  02:05 AM
                             [**2174-10-26**]  02:19 AM
                             [**2174-10-26**]  08:12 AM
                             [**2174-10-26**]  08:19 AM
   WBC
   12.8
   11.1
   13.0
   13.3
   Hct
   27.7
   30.3
   30.3
   31.9
   Plt
   49
   60
   60
   49
   82
   Cr
   1.3
   1.3
   TCO2
   29
   24
   22
   22
   20
   Glucose
   152
   113
   111
   108
   Other labs: PT / PTT / INR:18.9/35.5/1.7, ALT / AST:1317/5781, Alk Phos
   / T Bili:356/11.0, Amylase / Lipase:/52, Differential-Neuts:64.0 %,
   Band:8.0 %, Lymph:16.0 %, Mono:10.0 %, Eos:0.0 %, Fibrinogen:156 mg/dL,
   Lactic Acid:5.2 mmol/L, Albumin:2.9 g/dL, LDH:3660 IU/L, Ca++:8.6
   mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HEPATITIS, ISCHEMIC (SHOCK LIVER)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ACIDOSIS, METABOLIC
   69 yo man with cirrhosis in MICU with hypovolemic shock in setting of
   sudden variceal bleed, leading to respiratory failure and acute renal
   failure.  Hemodynamics stable overnight, albeit on 2 pressors.  Lactate
   sown to 5.2.  Now on CVVH with improved management to acidosis and
   hyperkalemia.
   1. Hypovolemic shock/GI Bleed/Blood Loss Anemia: Remains on levophed.
   Hct stable
   2. Acute renal failure: On CRRT with adequate managment of acidosis ond
   hyperkalemia
   3. Respiratory Failure: Cont current vent settings.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2174-10-24**] 11:26 AM
   Arterial Line - [**2174-10-24**] 01:34 PM
   22 Gauge - [**2174-10-24**] 04:33 PM
   20 Gauge - [**2174-10-24**] 04:33 PM
   Dialysis Catheter - [**2174-10-24**] 05:38 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2174-10-27 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - liver: continue [**Month (only) **] gtt, protonix gtt, CVVH; recommend transition to
   CMO.
   - discussion with [**Known lastname 12051**] son and daughter: made aware of patient's
   poor prognosis. plan to visit pt again today and can further address
   goals of care at that time.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2174-10-26**] 05:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2174-10-27**] 04:16 AM
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/min
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-10-27**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.2
   HR: 80 (70 - 87) bpm
   BP: 96/51(66) {91/49(62) - 121/59(78)} mmHg
   RR: 20 (20 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,577 mL
                                                                  1,359 mL
   PO:
             TF:
   IVF:
                                                                  5,013 mL
                                                                  1,359 mL
   Blood products:
                                                                    564 mL
   Total out:
                                                                  6,052 mL
                                                                  1,314 mL
   Urine:
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -475 mL
                                                                     45 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.33/36/103/19/-6
   Ve: 10.1 L/min
   PaO2 / FiO2: 258
   Physical Examination
   GEN: nad, non-responsive to voice, touch, sternal rub
   CV: RRR, no m/r/g
   PULM; CTAB
   ABD: soft, NT, +BS, distended
   EDEMA: 1+b/l feet
   SKIN: mottled appearance to feet b/l
   Labs / Radiology
   48 K/uL
   11.4 g/dL
   92 mg/dL
   1.0 mg/dL
   19 mEq/L
   4.1 mEq/L
   19 mg/dL
   102 mEq/L
   133 mEq/L
   31.9 %
   12.6 K/uL
        [image002.jpg]
                             [**2174-10-26**]  02:05 AM
                             [**2174-10-26**]  02:19 AM
                             [**2174-10-26**]  08:12 AM
                             [**2174-10-26**]  08:19 AM
                             [**2174-10-26**]  02:10 PM
                             [**2174-10-26**]  02:18 PM
                             [**2174-10-26**]  07:59 PM
                             [**2174-10-26**]  08:24 PM
                            [**2174-10-27**]  01:59 AM
                            [**2174-10-27**]  02:21 AM
   WBC
   13.0
   13.3
   11.8
   12.6
   Hct
   30.3
   31.9
   33.0
   31.9
   Plt
   49
   82
   52
   48
   Cr
   1.3
   1.0
   1.0
   TCO2
   22
   20
   20
   20
   20
   Glucose
   111
   108
   105
   117
   92
   Other labs: PT / PTT / INR:21.8/36.8/2.0, ALT / AST:[**Telephone/Fax (1) 12052**], Alk Phos
   / T Bili:421/17.0, Amylase / Lipase:/52, Differential-Neuts:64.0 %,
   Band:8.0 %, Lymph:16.0 %, Mono:10.0 %, Eos:0.0 %, Fibrinogen:170 mg/dL,
   Lactic Acid:4.9 mmol/L, Albumin:2.9 g/dL, LDH:1420 IU/L, Ca++:9.0
   mg/dL, Mg++:1.9 mg/dL, PO4:1.5 mg/dL
   CXR: mild improvement in overall haziness, particularly at left base,
   compared to yesterday (my read)
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HEPATITIS, ISCHEMIC (SHOCK LIVER)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ACIDOSIS, METABOLIC
   79 y/o male with hepatitis c cirrhosis, elevated lactate, BRB per NG
   tube, s/p EGD with banding of active variceal bleeding.
   # Hypotension/Bleed: Clearly there is a component of volume loss given
   his blood loss, unclear if there is sepsis.  EGD showed variceal bleed
   requiring multiple transfusions of PRBC for falling Hct.  Hct currently
   stable at 30. Lactic acid improving. Increased levophed requirement
   [**10-27**] versus [**10-26**].
   - Goal INR <2; goal plt >50; goal finbrinogen >100; Hct >25
   - [**Hospital1 7**] coags, calcium, cbc, electrolytes
   - Daily lactic acid
   - Continue Levophed, wean as tolerated; Vasopressin has been weaned off
   already; goal MAP >65
   - Maintain active type and cross x8 units
   - Continue PPI drip
   - Continue Octreotide
   - f/u cultures obtained
   - consider tap ascites when stable, ?SBP
   - Vanc/Zosyn empirically cont.
   # Elevated LFTs/Lactate: Likely secondary to necrosis in the context of
   hypotension.  ? Mesenteric ischemia versus global hypoperfusion at this
   time.  No free air on CXR although not ideal.
   - Improved lactate and LFTs
   - Trend LFTs and lactate daily
   - Volume resuscitation with fluids, blood
   - Patient unstable for further evaluation of abdomen at this time
   # Anuria: Likely secondary to hypotension.  Renal consult obtained if
   patient needs urgent dialysis given hyperkalemia.  At this point given
   bleeding I am not sure if he would be stable for any CRRT.
   - Follow volume status
   - Receiving CVVHD; monitor lytes q6h and replete prn
   # Hyperkalemia: Resuscitation with temporizing measures as in HPI.
   Repeat K is elevated.  Renal aware.  Given Calcium gluconate, sodium
   bicarbonate, glucose/Insulin.  Now resolved.
   .
   FEN: No IVF, replete electrolytes, NPO. Replete phos this AM.
   .
   Prophylaxis: IV PPI
   .
   Access: 2 peripherals, left subclavian, R temporary HD line
   .
   Code:  DNR (CPR not medically indicated, for discussion see POE and Dr.
  [**Name (NI) 11964**] note [**10-24**]).
   .
   Communication: Friend [**Name (NI) 4396**], [**First Name3 (LF) **].  Have family meeting today (son &
   daughter) re: goals of care.
   Discuss case and goals of care and potential withdrawal of care  and
   family
s role (children with years without contact with patient) with
   ethics service.
   .
   Disposition: ICU
   ICU Care
   Lines:
   Multi Lumen - [**2174-10-24**] 11:26 AM
   Arterial Line - [**2174-10-24**] 01:34 PM
   22 Gauge - [**2174-10-24**] 04:33 PM
   20 Gauge - [**2174-10-24**] 04:33 PM
   Dialysis Catheter - [**2174-10-24**] 05:38 PM

2174-10-27 11:25:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, GI Bleed, Blood Loss Anemia,
   Acute Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Has has increase in levephed requirement to 0.2
   24 Hour Events:
   CRRT circuit has clotted off
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2174-10-27**] 04:16 AM
   Vancomycin - [**2174-10-27**] 08:00 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Dialysis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2174-10-27**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36
C (96.8
   HR: 86 (70 - 87) bpm
   BP: 97/52(66) {91/49(62) - 130/63(85)} mmHg
   RR: 20 (20 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,577 mL
                                                                  1,999 mL
   PO:
             TF:
   IVF:
                                                                  5,013 mL
                                                                  1,999 mL
   Blood products:
                                                                    564 mL
   Total out:
                                                                  6,052 mL
                                                                  1,434 mL
   Urine:
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -475 mL
                                                                    565 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.34/35/130/18/-5
   Ve: 10.5 L/min
   PaO2 / FiO2: 325
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: musical b/l)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.4 g/dL
   48 K/uL
   103 mg/dL
   1.0 mg/dL
   18 mEq/L
   4.0 mEq/L
   19 mg/dL
   101 mEq/L
   133 mEq/L
   31.9 %
   12.6 K/uL
        [image002.jpg]
                             [**2174-10-26**]  08:12 AM
                             [**2174-10-26**]  08:19 AM
                             [**2174-10-26**]  02:10 PM
                             [**2174-10-26**]  02:18 PM
                             [**2174-10-26**]  07:59 PM
                             [**2174-10-26**]  08:24 PM
                            [**2174-10-27**]  01:59 AM
                            [**2174-10-27**]  02:21 AM
                            [**2174-10-27**]  08:10 AM
                            [**2174-10-27**]  08:33 AM
   WBC
   13.3
   11.8
   12.6
   Hct
   31.9
   33.0
   31.9
   Plt
   82
   52
   48
   Cr
   1.0
   1.0
   TCO2
   20
   20
   20
   20
   20
   Glucose
   108
   105
   117
   92
   103
   Other labs: PT / PTT / INR:21.8/36.8/2.0, ALT / AST:[**Telephone/Fax (1) 12052**], Alk Phos
   / T Bili:421/17.0, Amylase / Lipase:/52, Differential-Neuts:64.0 %,
   Band:8.0 %, Lymph:16.0 %, Mono:10.0 %, Eos:0.0 %, Fibrinogen:170 mg/dL,
   Lactic Acid:4.9 mmol/L, Albumin:2.9 g/dL, LDH:1420 IU/L, Ca++:9.0
   mg/dL, Mg++:1.9 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HEPATITIS, ISCHEMIC (SHOCK LIVER)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ACIDOSIS, METABOLIC
   69 yo man with cirrhosis in MICU with hypovolemic shock in setting of
   sudden variceal bleed, leading to respiratory failure and acute renal
   failure.  Has peesistent pressor requirement
   1. Hypovolemic shock/GI Bleed/Blood Loss Anemia: Remains on levophed -
   requirement has gone up.  Hct stable.
   2. Acute renal failure: On CRRT  - circuit down at the moment.  [**Name2 (NI) 133**]
   reinitiate pending goals of care discussion
   3. Respiratory Failure: Cont current vent settings.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2174-10-24**] 11:26 AM
   Arterial Line - [**2174-10-24**] 01:34 PM
   22 Gauge - [**2174-10-24**] 04:33 PM
   20 Gauge - [**2174-10-24**] 04:33 PM
   Dialysis Catheter - [**2174-10-24**] 05:38 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2174-10-28 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Family meeting @ 2pm today.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2174-10-27**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2174-10-28**] 04:20 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Octreotide - 50 mcg/hour
   Norepinephrine - 0.35 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-10-28**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.4
   HR: 89 (79 - 94) bpm
   BP: 100/57(73) {90/51(64) - 130/63(85)} mmHg
   RR: 22 (20 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,719 mL
                                                                    784 mL
   PO:
             TF:
   IVF:
                                                                  3,719 mL
                                                                    784 mL
   Blood products:
   Total out:
                                                                  1,434 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,285 mL
                                                                    786 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.28/32/98.[**Numeric Identifier 176**]/14/-10
   Ve: 12.3 L/min
   PaO2 / FiO2: 245
   Physical Examination
   GEN: nad, unresponsive to verbal or tactile stimuli (incl sternal rub)
   Cv: rrr, no murmurs
   Pulm: ctab, but with harsher breath sounds in upper lung fields
   Abd; distended, soft, nt, could not auscultate bowel sounds clearly
   Extr: [**11-19**]+ b/l pedal edema
   SKIN; jaundiced, mottled feet appearance.
   Labs / Radiology
   32 K/uL
   12.3 g/dL
   129 mg/dL
   1.8 mg/dL
   14 mEq/L
   4.4 mEq/L
   33 mg/dL
   100 mEq/L
   132 mEq/L
   34.8 %
   16.5 K/uL
        [image002.jpg]
                             [**2174-10-26**]  02:18 PM
                             [**2174-10-26**]  07:59 PM
                             [**2174-10-26**]  08:24 PM
                            [**2174-10-27**]  01:59 AM
                            [**2174-10-27**]  02:21 AM
                            [**2174-10-27**]  08:10 AM
                            [**2174-10-27**]  08:33 AM
                            [**2174-10-27**]  08:12 PM
                            [**2174-10-28**]  03:59 AM
                            [**2174-10-28**]  04:35 AM
   WBC
   12.6
   16.5
   Hct
   31.9
   34.8
   Plt
   48
   32
   Cr
   1.0
   1.4
   1.8
   TCO2
   20
   20
   20
   20
   16
   Glucose
   117
   92
   103
   129
   Other labs: PT / PTT / INR:23.1/42.3/2.2, ALT / AST:[**Telephone/Fax (1) 12070**], Alk Phos
   / T Bili:438/20.9, Amylase / Lipase:/52, Differential-Neuts:64.0 %,
   Band:8.0 %, Lymph:16.0 %, Mono:10.0 %, Eos:0.0 %, Fibrinogen:170 mg/dL,
   Lactic Acid:5.7 mmol/L, Albumin:2.5 g/dL, LDH:1158 IU/L, Ca++:8.8
   mg/dL, Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HEPATITIS, ISCHEMIC (SHOCK LIVER)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ACIDOSIS, METABOLIC
   79 y/o male with hepatitis c cirrhosis, elevated lactate, BRB per NG
   tube, s/p EGD with banding of active variceal bleeding.
   *** Family meeting today at 2pm.
   # Hypotension/Bleed: Clearly there is a component of volume loss given
   his blood loss, unclear if there is sepsis.  EGD showed variceal bleed
   requiring multiple transfusions of PRBC for falling Hct.  Hct currently
   stable at 30. Lactic acid had been improving (rose again on [**10-28**]
   however from 4.9 to 5.7). Increased levophed requirement [**10-27**] versus
   [**10-26**].
   - Goal INR <2; goal plt >50; goal finbrinogen >100; Hct >25
   - [**Hospital1 7**] coags, calcium, cbc, electrolytes
   - Daily lactic acid
   - Continue Levophed and vasopression, wean as tolerated; goal MAP >65
   - Maintain active type and cross x8 units
   - Continue PPI drip
   - Continue Octreotide
   - f/u cultures obtained
   - consider tap ascites when stable, ?SBP
 hold for now
   - Vanc/Zosyn empirically cont.
   # Elevated LFTs/Lactate: Likely secondary to necrosis in the context of
   hypotension.  ? Mesenteric ischemia versus global hypoperfusion at this
   time.  No free air on CXR although not ideal study.
   - Trend LFTs and lactate daily
   - Volume resuscitation with fluids, blood
   - Patient unstable for further evaluation of abdomen at this time
   - f/u hepatology recs
   # Anuria: Likely secondary to hypotension.  Renal consult obtained if
   patient needs urgent dialysis given hyperkalemia.  At this point given
   bleeding I am not sure if he would be stable for any CRRT.
   - Hold on next session CVVHD for now; electrolytes ok
   - Acidemic, so could consider CVVHD and bicarb as potential treatments
   - Follow volume status
   # Hyperkalemia: Resolved. Previously, resuscitation with temporizing
   measures as in HPI.  Repeat K is elevated.  Renal aware.  Given Calcium
   gluconate, sodium bicarbonate, glucose/Insulin.
   .
   FEN: No IVF, replete electrolytes, NPO.
   .
   Prophylaxis: IV PPI
   .
   Access: 2 peripherals, left subclavian, R temporary HD line
   .
   Code:  DNR (CPR not medically indicated, for discussion see POE and Dr.
  [**Name (NI) 11964**] note [**10-24**]).
   .
   Communication: Friend [**Name (NI) 4396**], [**First Name3 (LF) **], daughter (children have not been in
   contact with patient for ~20 years).  Have family meeting today at 2pm
   re: goals of care.
   F/u ethics consult recommendations.
   .
   Disposition: ICU
   ICU Care
   Lines:
   Multi Lumen - [**2174-10-24**] 11:26 AM
   Arterial Line - [**2174-10-24**] 01:34 PM
   22 Gauge - [**2174-10-24**] 04:33 PM
   20 Gauge - [**2174-10-24**] 04:33 PM
   Dialysis Catheter - [**2174-10-24**] 05:38 PM

2174-10-28 11:06:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2174-10-27**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2174-10-28**] 04:20 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Octreotide - 50 mcg/hour
   Norepinephrine - 0.35 mcg/Kg/min
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-10-28**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.4
C (97.5
   HR: 90 (82 - 94) bpm
   BP: 114/60(79) {90/51(64) - 119/61(81)} mmHg
   RR: 23 (20 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,719 mL
                                                                  1,150 mL
   PO:
             TF:
   IVF:
                                                                  3,719 mL
                                                                  1,150 mL
   Blood products:
   Total out:
                                                                  1,434 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,285 mL
                                                                  1,150 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.28/32/98.[**Numeric Identifier 176**]/14/-10
   Ve: 12.4 L/min
   PaO2 / FiO2: 245
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.3 g/dL
   32 K/uL
   129 mg/dL
   1.8 mg/dL
   14 mEq/L
   4.4 mEq/L
   33 mg/dL
   100 mEq/L
   132 mEq/L
   34.8 %
   16.5 K/uL
        [image002.jpg]
                             [**2174-10-26**]  02:18 PM
                             [**2174-10-26**]  07:59 PM
                             [**2174-10-26**]  08:24 PM
                            [**2174-10-27**]  01:59 AM
                            [**2174-10-27**]  02:21 AM
                            [**2174-10-27**]  08:10 AM
                            [**2174-10-27**]  08:33 AM
                            [**2174-10-27**]  08:12 PM
                            [**2174-10-28**]  03:59 AM
                            [**2174-10-28**]  04:35 AM
   WBC
   12.6
   16.5
   Hct
   31.9
   34.8
   Plt
   48
   32
   Cr
   1.0
   1.4
   1.8
   TCO2
   20
   20
   20
   20
   16
   Glucose
   117
   92
   103
   129
   Other labs: PT / PTT / INR:23.1/42.3/2.2, ALT / AST:[**Telephone/Fax (1) 12070**], Alk Phos
   / T Bili:438/20.9, Amylase / Lipase:/52, Differential-Neuts:64.0 %,
   Band:8.0 %, Lymph:16.0 %, Mono:10.0 %, Eos:0.0 %, Fibrinogen:170 mg/dL,
   Lactic Acid:5.7 mmol/L, Albumin:2.5 g/dL, LDH:1158 IU/L, Ca++:8.8
   mg/dL, Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HEPATITIS, ISCHEMIC (SHOCK LIVER)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ACIDOSIS, METABOLIC
   69 yo man with cirrhosis in MICU with hypovolemic shock in setting of
   sudden variceal bleed, leading to respiratory failure and acute renal
   failure.  Has showed little improvement since initial stabilization on
   the first MICU day - his prognosis is very poor.  He is now having
   significant ectopy as well.  We are meeting with his estranged
   children, his cousin, and his friend [**Name (NI) 4396**] today to discuss his poor
   prognosis.  Based on our previous conversations, CMO care would be
   warrented at this point.
   1. Hypovolemic shock/GI Bleed/Blood Loss Anemia: Continue to elevated
   lavtate.  Has persistent pressor requirement.
   2. Acute renal failure: On hold for the moment
   3. Respiratory Failure: Cont current vent settings.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2174-10-24**] 11:26 AM
   Arterial Line - [**2174-10-24**] 01:34 PM
   22 Gauge - [**2174-10-24**] 04:33 PM
   20 Gauge - [**2174-10-24**] 04:33 PM
   Dialysis Catheter - [**2174-10-24**] 05:38 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill